US07538233B2
6-Bromo-4-[3-(tetrahydro-pyran-2-yloxy)-propoxy]-1-benzopyran-2-one
6-Bromo-4-hydroxycoumarin (1.19 mmol, 0.287 g), K2CO3 (3.57 mmol, 0.493 g) and 2-3-(bromopropoxy)tetrahydro-2H-pyran (1.19 mmol, 0.264 g) is suspended in 10 mL of acetone, and is heated to 55° C. for 24 hrs at which time the reaction is not complete. Cs2CO3 (1.54 mmol, 0.5 g) and 5 mL of DMF are added and the reaction is heated for an additional 2 hrs. Twenty-five percent of the crude THP protected material is purified by HPLC to afford the title compound (70.8 mg, 62%); 1H NMR (CDCl3, 300 MHz) δ 7.91 (1H, d, J=2.25 Hz), 7.82 (1H, dd, J=2.5, 9 Hz), 7.39 (1H, d, J=9 Hz), 5.98 (1H, s), 4.59 (1H, m), 4.31 (2H, t, J=6 Hz), 3.83 (1H, m), 3.72 (1H, m), 3.55 (2H, m), 2.09 (2H, m), 1.65 (2H, m), 1.45 (4H, m); MS (ESI, Pos.) calcd for C17H19BrO5 m/z [M+H]=383.0, found 383.1.

reactant | 6-Bromo-4-hydroxycoumarin | 1.19 mmol, 0.287 g | BrC=1C=C2C(=CC(OC2=CC1)=O)O | C9H5BrO3
reactant | K2CO3 | 3.57 mmol, 0.493 g | C(=O)([O-])[O-].[K+].[K+]
reactant | Cs2CO3 | 1.54 mmol, 0.5 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 6-Bromo-4-[3-(tetrahydro-pyran-2-yloxy)-propoxy]-1-benzopyran-2-one | 70.8 mg, 62% | BrC=1C=CC2=C(C(=CC(O2)=O)OCCCOC2OCCCC2)C1 | C17H19BrO5
